US06232516B1
A 1.0 L double-walled reactor, provided with baffles, condenser, top stirrer, thermometer and dropping funnel equipped with a nitrogen inlet was charged with ALIQUAT 336 (4.0 g, 10 mmol), 4-bromo-2-methyl-2-butene (30.0 g, 0.20 mol) and freshly cracked cyclopentadiene (6.6 g, 0.10 mol). A 50 wt. % NaOH aqueous solution (84 g) was then added via the dropping funnel to the turbulently stirred reaction mixture. The reaction mixture was cooled with water during the addition of the base. After 5.5 hours of stirring at room temperature, the stirring was stopped, the layers separated and the product was distilled at reduced pressure. After vacuum distillation, 3.4 g of di-(3-methyl-2-butenyl)-cyclopentadiene were obtained. Characterizaton of the product took place with the aid of GC, GC-MS, 13C- and 1H-NMR.

reactant | 4-bromo-2-methyl-2-butene | 0.20 mol, 30.0 g | BrCC=C(C)C | C5H9Br
reactant | cyclopentadiene | 0.10 mol, 6.6 g | C1=CC=CC1 | C5H6
reactant | NaOH | 84 g | [OH-].[Na+]
catalyst | ALIQUAT 336 | 10 mmol, 4.0 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | di-(3-methyl-2-butenyl)-cyclopentadiene | 3.4 g | CC(=CCC1(C=CC=C1)CC=C(C)C)C | C15H22
